US04051142
16 g of N-(4-chlorophenyl)-3-carbomethoxy-2,6-dimethylpyrid-4-one is suspended in 450 g of 5% aqueous sodium hydroxide and stirred at room temperature for 24 hours. Acidification yields 14.2 g of N-(4-chlorophenyl)-3-carboxy-2,6dimethylpyrid-4-one (m.p. 260-61.5° decomp.) which is converted to its sodium salt (m.p. >310°) by neutralization with sodium hydroxide.

reactant | N-(4-chlorophenyl)-3-carbomethoxy-2,6-dimethylpyrid-4-one | 16 g | ClC1=CC=C(C=C1)N1C(=C(C(C=C1C)=O)C(=O)OC)C | C15H14ClNO3
solvent | sodium hydroxide | 450 g | [OH-].[Na+]
product | N-(4-chlorophenyl)-3-carboxy-2,6dimethylpyrid-4-one | 14.2 g | ClC1=CC=C(C=C1)N1C(=C(C(C=C1C)=O)C(=O)O)C | C14H12ClNO3
